US05196434
In a ground-necked flask, 6 mmol of 3-methyl-6-[2-(N-methylamino)ethyl]benzothiazolinone are dissolved in 50 ml of dioxane, 20 mmol of 1-chloro-2-bromoethane and 20 mmol of potassium carbonate. The mixture is stirred for 48 hours at a temperature of 60° C. After cooling, the mixture is evaporated and the reaction medium is extracted with chloroform after adding water. After washing, drying and evaporation of the organic phase, 3-methyl-6-{2-[N-methyl-N-(2-chloroethyl) amino]ethyl}benzothiazolinone is obtained, which product is transferred to a ground-necked flask. A catalytic amount of potassium iodide, 25 cm3 of methanol and 10 cm3 of chloroform are added. A stream of gaseous ammonia is bubbled into the solution to the point of saturation and a reflux condenser is then fitted. The temperature is stabilized at 50° C. with an oil bath and the mixture is then left stirring magnetically for 72 hours. After cooling, the reaction mixture is evaporated on a water bath under vacuum. The residue is ground with distilled water acidified with 5% HCl solution, and then drained. The filtrate is recovered, washed with ethyl acetate and then alkalinized with 10% sodium hydroxide solution. It is extracted with chloroform, leaving the 2 phases agitating for 1/2 hour, and the organic phase is washed with distilled water and then dried over calcium chloride. The organic phase is evaporated on a water bath under vacuum, the residue is then taken up in absolute ethanol, a stream of gaseous HCl is bubbled through and the mixture is then evaporated to dryness on a water bath under vacuum. The product is dried and then recrystallized.

reactant | 3-methyl-6-[2-(N-methylamino)ethyl]benzothiazolinone | 6 mmol | CN1CS(C2=C1C=CC(=C2)CCNC)=O | C11H16N2OS
reactant | 1-chloro-2-bromoethane | 20 mmol | ClCCBr | C2H4BrCl
reactant | potassium carbonate | 20 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-methyl-6-{2-[N-methyl-N-(2-chloroethyl) amino]ethyl}benzothiazolinone | CN1CS(C2=C1C=CC(=C2)CCN(CCCl)C)=O | C13H19ClN2OS
